US07074801B1
2-(3-Chloro-2-pyridinylamino)ethanol
After 11.46 g of 2,3-dichloropyridine and 9.8 mL 2-aminoethanol were heated at 100° C. for 24 hours, an aqueous saturated sodium bicarbonate solution was added thereto, and the reaction mixture was extracted with ethyl acetate. The extract was washed with brine, the organic layer was dried over anhydrous sodium sulfate, the solvent was removed, and the resulting crude product was purified by silica gel column chromatography (ethyl acetate/hexane) to give 2.1 g of the title compound (yellow oil).

reactant | 2,3-dichloropyridine | 11.46 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | 2-aminoethanol | 9.8 mL | NCCO | C2H7NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-(3-Chloro-2-pyridinylamino)ethanol | 2.1 g | ClC=1C(=NC=CC1)NCCO | C7H9ClN2O
